US04267176
To a solution of ethyl 3-ethoxyacrylimidate hydrochloride (4.0 g) and 1-ethoxycarbonylformamidine hydrobromide (4.4 g) in methanol (110 ml) was added dropwise a solution of sodium metal (1 g) in methanol (110 ml) at 0° C. The reaction mixture was stirred for an hour at 0° to 5° C. and for additional 4 hours at ambient temperature. The solution was evaporated to dryness and the residue was dissolved in a mixture of ethyl acetate and an aqueous solution of sodium chloride. The organic layer was separated out and the aqueous layer was extracted with ethyl acetate five times. All organic layers were combined, dried over anhydrous magnesium sulfate and evaporated to dryness. The residue was triturated with diethyl ether to give methyl 4-aminopyrimidine-2-carboxylate (1.33 g), which was recrystallized from ethyl acetate, mp. 140°-142.5° C.

reactant | ethyl 3-ethoxyacrylimidate hydrochloride | 4.0 g | Cl.C(C)OC=CC(OCC)=N
reactant | 1-ethoxycarbonylformamidine hydrobromide | 4.4 g | Br.C(C)OC(=O)C(=N)N
reactant | sodium | 1 g | [Na] | Na
solvent | methanol | 110 ml | CO | CH4O
solvent | methanol | 110 ml | CO | CH4O
product | methyl 4-aminopyrimidine-2-carboxylate | 1.33 g | NC1=NC(=NC=C1)C(=O)OC | C6H7N3O2
